US05760259
7-Phenylthioheptyl bromide was prepared from thiophenol (4.40 g, 40 mmol) and 1,7-dibromoheptane (10.32 g, 40 mmol) as described above for 7-phenoxyheptyl bromide. Yield: 46% bp; 132°-136° C./0.05 torr; 1H-NMR: 1.30-1.85 (m, 10H), 2.90 (t, 2H), 3.35 (t, 2H), 7.25 (s, 5H).

reactant | thiophenol | 40 mmol, 4.40 g | C1(=CC=CC=C1)S | C6H6S
reactant | 1,7-dibromoheptane | 40 mmol, 10.32 g | BrCCCCCCCBr | C7H14Br2
reactant | 7-phenoxyheptyl bromide | O(C1=CC=CC=C1)CCCCCCCBr | C13H19BrO
product | 7-Phenylthioheptyl bromide | Yield: 46% | C1(=CC=CC=C1)SCCCCCCCBr | C13H19BrS
